US06869959B1
Ethyl 2-[N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)amino]-pyrimidine-5-carboxylate (104 mg) was dissolved in dry DMF (3 ml), and the solution was added with a suspension of NaH (40 mg) in DMF (2 ml). The mixture was then added with methyl iodide (0.5 ml) and stirred. After the disappearance of the materials was observed with TLC, the reaction mixture was poured into water, and extracted with CH2Cl2. The organic layer was dried over Na2SO4, and the solvent was evaporated. The residue was purified by silica gel flash column chromatography (n-hexane: AcOEt=20:1) to obtain white crystals of ethyl 2-[N-methyl-N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-yl)amino]pyrimidine-5-carboxylate (105 mg, 97%).

reactant | Ethyl 2-[N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-yl)amino]-pyrimidine-5-carboxylate | 104 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)NC1=NC=C(C=N1)C(=O)OCC)C | C21H27N3O2
reactant | NaH | 40 mg | [H-].[Na+]
reactant | methyl iodide | 0.5 ml | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | ethyl 2-[N-methyl-N-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-yl)amino]pyrimidine-5-carboxylate | 105 mg, 97% | CN(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C1=NC=C(C=N1)C(=O)OCC | C22H29N3O2
